US05055464
In the same manner as in (iv) of Example 23, 1.7 g of ethyl trans-3-amino-8-chloro-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate is dissolved in 50 ml of methanol, into which ammonia gas is blown to the level of saturation under ice-cooling. The reaction temperature is slowly elevated to room temperature, and the mixture is allowed to stand still overnight. Then, the reaction mixture is concentrated under reduced pressure. The separated crystals are collected by filtration to give 1.4 g of trans-3-amino-8-chloro-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetamide, m.p. 225°-228° C.

reactant | ethyl trans-3-amino-8-chloro-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 1.7 g | N[C@H]1[C@@H](SC2=C(N(C1=O)CC(=O)OCC)C=CC(=C2)Cl)C2=CC=CC=C2 | C19H19ClN2O3S
reactant | ammonia | N | H3N
solvent | methanol | 50 ml | CO | CH4O
product | trans-3-amino-8-chloro-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetamide | 1.4 g | N[C@H]1[C@@H](SC2=C(N(C1=O)CC(=O)N)C=CC(=C2)Cl)C2=CC=CC=C2 | C17H16ClN3O2S
